US08791132B2
To a solution of 5-isoquinolin-5-ylethynyl-2,8-dimethyl-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole (90 mg, 0.256 mmol) in MeOH (6 mL) were added 10% dry Pd—C (25 mg) and ammonium formate (81 mg, 1.282 mmol). The reaction mixture was refluxed for 2 h and filtered through Celite. The filtrate was concentrated under reduced pressure to afford crude product, which was purified by reverse phase HPLC to yield 20 mg of 5-(2-isoquinolin-5-yl-vinyl)-2,8-dimethyl-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole. 1H NMR (CD3OD, TFA salt) δ (ppm): 9.7 (s, 1H), 8.57 (d, 1H), 8.5 (d, 1H), 8.3 (d, 1H), 7.65 (t, 1H), 7.59 (d, 1H), 7.4 (d, 1H), 7.22 (d, 1H), 7.2 (s, 1H), 6.7 (m, 2H), 4.63 (d, 1H), 4.3 (d, 1H), 3.7 (m, 1H), 3.47 (m, 1H), 3.08 (s, 3H), 2.9-3.0 (m, 2H), 2.31 (s, 3H).

reactant | 5-isoquinolin-5-ylethynyl-2,8-dimethyl-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole | 0.256 mmol, 90 mg | C1=NC=CC2=C(C=CC=C12)C#CN1C2=C(C=3C=C(C=CC13)C)CN(CC2)C | C24H21N3
reactant | ammonium formate | 1.282 mmol, 81 mg | C(=O)[O-].[NH4+]
solvent | MeOH | 6 mL | CO | CH4O
catalyst | Pd—C | 25 mg | [Pd] | Pd
product | 5-(2-isoquinolin-5-yl-vinyl)-2,8-dimethyl-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole | 20 mg | C1=NC=CC2=C(C=CC=C12)C=CN1C2=C(C=3C=C(C=CC13)C)CN(CC2)C | C24H23N3
